US08492049B2
Tetramethlguanidine functionalized perfluorinated polymers were further treated with dimethyl sulfate (DMS) in DMF at 90° C. for 24 hr. Pentamethylguanidine functionalized perfluorinated polymer was obtained. Guanidine functionalized perfluorinated polymers was further treated with 1 M NaOH followed by washing with water.

reactant | Tetramethlguanidine | CN(C(N(C)C)=N)C | C5H13N3
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | CN(C)C=O | C3H7NO
product | Pentamethylguanidine | CN(C(N(C)C)=NC)C | C6H15N3
